US09233979B2
A mixture of 6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridine (1000 mg, 1.917 mmol), tert-butylamine (565 μl, 5.75 mmol), brettphos palladacycle (77 mg, 0.096 mmol), 2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl (44.7 mg, 0.096 mmol) and sodium tert-butoxide (553 mg, 5.75 mmol) were degassed. Toluene (9583 μl) was added to and reaction system was degassed and heated at 110° C. for 8 h. Solvent was evaporated in vacuo and partioned between water and EtOAc. Aqueous layer was extracted with EtOAc (2×) and combined organics were washed with water and saturated aqeous Brine, dried over Na2SO4 and concentrated in vacuo on silica. Material was purified by normal phase column chromotography eluting with EtOAc/Hex (0-15%) affording N-(tert-butyl)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine (219 mg, 0.469 mmol, 24.47% yield) as a white solid. 1H NMR (ppm, 500 MHz, DMSO-d6) δ 8.81 (s, 1H), 7.52-7.13 (m, 15H), 6.30 (s, 1H), 5.76 (s, 1H), 1.24 (s, 9H). MS ESI calc'd. For C29H27ClN4[M+H]+ 467. found 467.

reactant | 6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridine | 1.917 mmol, 1000 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C25H17ClIN3
reactant | tert-butylamine | 5.75 mmol, 565 μl | C(C)(C)(C)N | C4H11N
reactant | 2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl | 0.096 mmol, 44.7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | sodium tert-butoxide | 5.75 mmol, 553 mg | CC(C)([O-])C.[Na+]
catalyst | brettphos palladacycle | 0.096 mmol, 77 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
product | N-(tert-butyl)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 0.469 mmol, 219 mg, 24.47% yield | C(C)(C)(C)NC1=NN(C2=C1C=NC(=C2)Cl)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C29H27ClN4
